US06794402B2
To a stirred solution of 6-{trans-4-[3-(4-chlorophenyl)-propylamino]-cyclohexyl}-3H-benzoxazol-2-one (655 mg, 1.7 mmol) in MeOH (20 mL) and CH2Cl2 (25 mL) was added p-formaldehyde (0.70 mL of a 37 wt % solution in H2O, 8.5 mmol). The reaction mixture was warmed to dissolve compound the amine, and then stirred at room temperature for 15 minutes. NaBH(OAc)3 was added and stirring was continued for 12 hours. The reaction mixture was brought to pH 8 with solid NaOH, concentrated under reduced pressure, and purified by flash chromatography (silica, 95:4.5:0.5 CH2Cl2:MeOH:NH4OH). Formation of the HCl salt, followed by recrystallization (MeOH:Et2O) gave 6-(trans-4-{[3-(4-chlorophenyl)propyl]-methylamino}-cyclohexyl)-3H-benzoxazol-2-one (461 mg, 66%), as a white solid: mp 267-271° C.; IR (KBr): 2949, 1769, 1494, 1452 cm−1; 1H NMR (500 MHz, DMSO-d6): δ 11.50 (s, 1H), 10.39 (s, 1H), 7.37 (d, J=8 Hz, 2H), 7.30 (d, J=8 Hz, 2H), 7.16 (s, 1H), 7.00 (br s, 2H), 3.33-3.26 (m, 1H), 3.18-3.10 (m, 1H), 3.04-2.95 (m, 1H), 2.69 (d, J=5 Hz, 3H), 2.68-2.62 (m, 2H), 2.58-2.51 (m, 1H), 2.18-1.98 (m, 4H), 1.93-1.87 (m, 2H), 1.69-1.51 (m, 4H); HRMS-APCI (m/z): [M+H]+ calcd for C23H27ClN2O2, 399.1839; found, 399.1831; HPLC: method A, 6.35 minutes (98.6%); method B. 11.82 minutes (99.1%); Anal. Calcd for C23H27ClN2O2.HCl.0.25H2O: C, 62.80; H, 6.53; N, 6.37. Found: C, 62.94; H, 6.57; N, 6.21.

reactant | 6-{trans-4-[3-(4-chlorophenyl)-propylamino]-cyclohexyl}-3H-benzoxazol-2-one | 1.7 mmol, 655 mg | ClC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1 | C22H25ClN2O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 6-(trans-4-{[3-(4-chlorophenyl)propyl]-methylamino}-cyclohexyl)-3H-benzoxazol-2-one | 461 mg, 66% | ClC1=CC=C(C=C1)CCCN([C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1)C | C23H27ClN2O2
